US07834043B2
(2S,3S)-2-[(methoxycarbonyl)amino]-3-methylpentanoic acid
A solution of L-iso-Leucine (7.43 g, 56.6 mmol) in a mixture of dioxane (28 mL) and aqueous NaOH solution (93.5 mL, 2N) was treated with methyl chloroformate (8.75 mL, 113.3 mmol) dropwise, not allowing the internal temperature to rise above 50° C. The mixture was warmed to 60° C. and stirred for 18 hours, cooled to 25° C., and extracted with dichloromethane. The aqueous phase was cooled to 0° C., and its pH was adjusted to 1-2 with HCl (4 N). The mixture was partitioned between ethyl acetate and water, and the organic phase was washed with brine, dried over Na2SO4, filtered and concentrated to give the crude product (10 g).

reactant | L-iso-Leucine | 56.6 mmol, 7.43 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | NaOH | 2N, 93.5 mL | [OH-].[Na+]
reactant | methyl chloroformate | 113.3 mmol, 8.75 mL | ClC(=O)OC | C2H3ClO2
solvent | dioxane | 28 mL | O1CCOCC1 | C4H8O2
product | (2S,3S)-2-[(methoxycarbonyl)amino]-3-methylpentanoic acid | 10 g | COC(=O)N[C@H](C(=O)O)[C@H](CC)C | C8H15NO4
